Name:  ___        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Peripheral Vertigo
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ woman with history of 
hypertension, a fib on apixaban, who presented after subacute 
onset of dizziness this
morning. 

Per patient with assistance from her niece for translation and 
her sister dizziness started this morning while she was eating 
breakfast. It was mild at first but then seemed to increased She 
checked her BP and her SBP was in 190s. Upon presentation to ED 
she vomited once, per patient due to bumpy ambulance ride. It is 
difficult for her to describe the dizziness sensation but is 
very clear that it has never completely resolved since it 
started this
morning. She says it gets much worse with looking down and 
turning her head. When she looks down it feels like the room is 
spinning. She is able to walk but feels very unsteady when she 
does. She endorses nausea with dizziness. She also endorses a 
flushing sensation in her face that has come and gone throughout 
the day and tingling in her bilateral wrists that lasts a few
minutes. She has never had dizziness before. 

She denies any trauma, URI, changes in hearing, tinnitus,
sensation of ear fullness. She also denies any palpitations,
chest pain, sob, fevers, changes in bowel or bladder function.
Denies any headaches, confusion, difficulties producing or
comprehending speech, loss of vision, blurred vision, diplopia,
dysarthria, dysphagia, tinnitus or hearing difficulty, focal
weakness, loss of sensation, or paresthesias other than in her
wrists.  

She denies missing any doses of apixaban.  

In the ED she was given meclizine and Zofran that improved
symptoms briefly but per patient never completely resolved
dizziness. Her blood pressure remained elevated with SBPs in
170-160s. Of note labs significant for sodium of 129 (prior
140s). 
 
Past Medical History:
1.  Hypertension.
2.  Diabetes.
3.  Status post cataract surgery.
4.  Status post cholecystectomy.
5.  Glaucoma.
6.  Constipation.
7.  Atrial fibrillation.  Patient is taking apixaban and 
followed
by cardiology.
8.  Basal cell carcinoma on her nose.
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
==============
ADMISSION EXAM
==============
Vitals:T97.5, HR85, BP 163/94, RR18, 96% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: irregularly irregular, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.

 

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent per niece, no paraphasic errors,
Able to name both high and low frequency objects.  Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands. Able to register 3 objects and recall
___ at 5 minutes. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI: R 3->2, L 4->2 (baseline per patient and 
family)
EOMI without nystagmus. VFF to confrontation. Visual acuity 
___
bilaterally. Fundoscopic exam revealed no papilledema, exudates,
or hemorrhages.
No corrective saccades with head impulse, no skew, no overshoot
with saccades 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.

  [___]

L    5    5    5    5    5    5   5    5    5   5    5    5

R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch, pinprick, temperature, 
vibration, or proprioception throughout. No extinction to DSS.
Romberg absent.

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     0
R   2     2      2      2     0 

Plantar response was flexor bilaterally.

-Coordination: FNF was fast and smooth without dysmetria. Mild
rebound on right upper extremity

-Gait: able to sit up in bed without assistance, mildly unsteady
and wide based gait, becomes acutely unsteady and almost falls
backwards with looking down

==============
DISCHARGE EXAM
==============
Essentially unchanged, except as noted below: 
Gait normal, able to ambulate independently without symptoms. 
 
Pertinent Results:
====
LABS
====

___ 09:25PM BLOOD WBC-9.1 RBC-4.25 Hgb-13.1 Hct-37.2 MCV-88 
MCH-30.8 MCHC-35.2 RDW-12.7 RDWSD-40.9 Plt ___
___ 09:25PM BLOOD Neuts-78.7* Lymphs-15.3* Monos-4.7* 
Eos-0.5* Baso-0.4 Im ___ AbsNeut-7.18* AbsLymp-1.40 
AbsMono-0.43 AbsEos-0.05 AbsBaso-0.04
___ 09:25PM BLOOD Plt ___

___ 09:25PM BLOOD Glucose-275* UreaN-17 Creat-0.7 Na-129* 
K-4.9 Cl-87* HCO3-22 AnGap-20*
___ 01:39AM BLOOD Glucose-283* UreaN-16 Creat-0.6 Na-128* 
K-4.0 Cl-86* HCO3-21* AnGap-21*
___ 07:40AM BLOOD Glucose-228* UreaN-16 Creat-0.6 Na-128* 
K-4.4 Cl-87* HCO3-24 AnGap-17
___ 04:02PM BLOOD Glucose-143* UreaN-16 Creat-0.8 Na-125* 
K-3.7 Cl-86* HCO3-26 AnGap-13
___ 10:07AM BLOOD Glucose-239* UreaN-16 Creat-0.9 Na-130* 
K-3.7 Cl-90* HCO3-25 AnGap-15

___ 01:39AM BLOOD ALT-21 AST-20 AlkPhos-101 TotBili-1.1
___ 01:39AM BLOOD Albumin-4.4 Calcium-8.9 Phos-3.9 Mg-1.6 
Cholest-152
___ 10:07AM BLOOD Calcium-9.2 Phos-2.9 Mg-1.8
___ 01:39AM BLOOD %HbA1c-6.9* eAG-151*
___ 01:39AM BLOOD Triglyc-57 HDL-70 CHOL/HD-2.2 LDLcalc-71
___ 07:40AM BLOOD Triglyc-66 HDL-67 CHOL/HD-2.1 LDLcalc-64

=======
IMAGING
=======
- ___ CTA Head & Neck
1. No acute intracranial abnormality by unenhanced head CT.
2. 2 x 2 mm posterolaterally projecting outpouching arising from 
the cavernoussegment of the left intracranial ICA, likely a 
small infundibulum versus tiny aneurysm.
3. Mild narrowing, right P1 segment PCA due to underlying 
atheromatous
disease. 
4. Otherwise, remainder of the circle of ___ vasculature is 
patent without additional area of stenosis, aneurysm, or 
occlusion.
5. Patent bilateral cervical vertebral and carotid arteries.  
33% left and 18% right proximal ICA luminal narrowing due to 
atherosclerotic plaque.  Moderate to severe luminal narrowing of 
the origin of the right vertebral artery due to atherosclerosis.
6. 9 mm right apical lung opacity, solid nodule versus 
mucus-impacted distal bronchus.  Recommend further 
characterization with dedicated CT chest.
 
RECOMMENDATION(S):  CT chest for further evaluation of possible 
right apical
lung nodule measuring 9 mm, if prior chest imaging from outside 
facilities is
not readily available for comparison.
 

- ___ MR ___
1. No acute intracranial abnormality.  No acute infarction.
2. Chronic findings include global parenchymal volume loss and 
mild changes of chronic white matter microangiopathy.
 
Brief Hospital Course:
Ms. ___ was admitted to the stroke service for 
symptoms of vertigo concerning for stroke/TIA. Her symptoms 
seemed likely due to a peripheral cause, but this could not be 
definitely proven as they were resolved by the time of 
evaluation. Thus, she was admitted for stroke workup given her 
risk factors. Her MRI was normal, thus reassuring us against a 
central etiology. She was evaluated by ___ and discharged from 
further ___ needs. She was given a referral for outpatient 
vestibular ___ should her symptoms recur. 

Separately, she was hyponatremic down to 125, which was likely 
multifactorial due to chlorthalidone use as well as a recent 
bout of diarrhea for which she also drank 3+ liters of free 
water just prior to admission. We held her chlorthalidone, 
sodium improved to 130, and we informed her PCP ___ with 
whom she has follow-up soon.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
2. Metoprolol Succinate XL 100 mg PO DAILY 
3. Apixaban 5 mg PO BID 
4. Atorvastatin 20 mg PO QPM 
5. Omeprazole 20 mg PO DAILY 
6. GlipiZIDE 5 mg PO BID 
7. Vitamin D 1000 UNIT PO DAILY 
8. Chlorthalidone 25 mg PO DAILY 
9. amLODIPine 10 mg PO DAILY 
10. Losartan Potassium 50 mg PO BID 
11. Timolol Maleate 0.5% 1 DROP BOTH EYES BID 

 
Discharge Medications:
1.  amLODIPine 10 mg PO DAILY  
2.  Apixaban 5 mg PO BID  
3.  Atorvastatin 20 mg PO QPM  
4.  GlipiZIDE 5 mg PO BID  
5.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
6.  Losartan Potassium 50 mg PO BID  
7.  Metoprolol Succinate XL 100 mg PO DAILY  
8.  Omeprazole 20 mg PO DAILY  
9.  Timolol Maleate 0.5% 1 DROP BOTH EYES BID  
10.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Peripheral Vertigo
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Ms. ___, 

You were admitted to the neurology service due to symptoms of 
vertigo. Your symptoms improved significantly overnight. MRI of 
your ___ was done and showed you did not have a stroke. Your 
blood sodium level was abnormally low (125), likely due to use 
of chlorthalidone along with diarrhea and your intake of 3+ 
liters of water on the day before admission. We stopped your 
chlorthalidone and informed your PCP (Dr. ___ of this 
change. 

- STOP chlorthalidone. 

Best, 
Your ___ Neurology Team
 
Followup Instructions:
___